US08835432B2
To 70 mL of DCM was added 13.56 g (1.2 g/1 mmol of substrate) of wet Montmorillonite (˜0.2 g H2O/1 g of clay), and oxone (17.37 g, 28.2 mmol)1. To this suspension was added a solution of 2-((1S)-1-(8-fluoro-2-(2-(methylthio)-phenyl)quinolin-3-yl)ethyl)isoindoline-1,3-dione (5.0 g, 11.3 mmol) dissolved in DCM (10 mL). The slurry was stirred at rt for 72 h and then filtered through a fitted funnel. The solids were washed with DCM (˜600 mL) and the filtrates were concentrated under vacuum to give 2-((1S)-1-(8-fluoro-2-(2-(methylsulfonyl)phenyl)-3-quinolinyl)ethyl)-1H-isoindole-1,3(2H)-dione 7.11 g (97%) as a light yellow solid. The proton NMR reflects a 59/41 ratio of atropisomers at 25° C. 1H-NMR (500 MHz, CDCl3) δ ppm 8.86 (s, 0.59H), 8.79 (s, 0.41H), 8.26 (d, J=7.8 Hz, 0.41H), 8.04 (d, J=7.8 Hz, 0.59H), 7.89-7.36 (series of m, 9.6H), 7.20 (d, J=7.6 Hz, 0.41H), 5.70 (q, J=7.1 Hz, 0.59H), 5.54 (q, J=7.3 Hz, 0.41H), 3.19 (s, 1.75H), 3.15 (s, 1.25H), 1.98 (d, J=7.3 Hz, 1.75H), 1.85 (d, J=7.1 Hz, 1.25H). Mass Spectrum (ESI) m/e=475.0 (M+1).

reactant | oxone | 28.2 mmol, 17.37 g | OOS(=O)[O-].[K+]
reactant | 2-((1S)-1-(8-fluoro-2-(2-(methylthio)-phenyl)quinolin-3-yl)ethyl)isoindoline-1,3-dione | 11.3 mmol, 5.0 g | FC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC=C1)SC)[C@H](C)N1C(C2=CC=CC=C2C1=O)=O | C26H19FN2O2S
reactant | DCM | 10 mL | C(Cl)Cl | CH2Cl2
reactant | DCM | 70 mL | C(Cl)Cl | CH2Cl2
product | 2-((1S)-1-(8-fluoro-2-(2-(methylsulfonyl)phenyl)-3-quinolinyl)ethyl)-1H-isoindole-1,3(2H)-dione | 7.11 g, 97% | FC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC=C1)S(=O)(=O)C)[C@H](C)N1C(C2=CC=CC=C2C1=O)=O | C26H19FN2O4S
